US04556711
5-[4-(3-(2-Hydroxyethyl)ureido)phenyl]-2(1H)-pyrazinone
In a manner similar to Example 13b, 5-[4-(isocyanato)phenyl]-2(1H)-pyrazinone was reacted with 2-hydroxyethylamine (0.5 g) in dimethylformamide (5 ml) for 17 hours at room temperature. The mixture was purified by flash chromatography (chloroform--20% methanol/80% chloroform); the desired fractions were combined and evaporated under reduced pressure to afford a residue. This residue was washed with chloroform and dried to form the title compound; δ(DMSO-d6) 3.17 (sextet, 2H, --NHCH2), 3.47 (t, 2H, --CH2OH), 7.94, 8.06 (2d, J=1 Hz, pyrazinone H's).

reactant | 5-[4-(isocyanato)phenyl]-2(1H)-pyrazinone | N(=C=O)C1=CC=C(C=C1)C=1N=CC(NC1)=O | C11H7N3O2
reactant | 2-hydroxyethylamine | 0.5 g | OCCN | C2H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-[4-(3-(2-Hydroxyethyl)ureido)phenyl]-2(1H)-pyrazinone | OCCNC(NC1=CC=C(C=C1)C=1N=CC(NC1)=O)=O | C13H14N4O3
